US05864039
4-Aminomethyl-4-methoxy-1-(6-oxo-6-phenylhexyl)piperidine dihydrochloride (2.25 g) as starting compound, triethylamine (2.4 ml), 4-amino-5-chloro-2-methoxybenzoic acid (1.16 g), 1-hydroxybenzotriazole (0.815 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (1.16 g) were reacted and treated in the same manner as in Example 270 to give 1.43 g of 4-amino-5-chloro-2-methoxy-N-((4-methoxy-1-(6-oxo-6-phenylhexyl)piperidin-4-yl)methyl)benzamide.

reactant | 4-Aminomethyl-4-methoxy-1-(6-oxo-6-phenylhexyl)piperidine dihydrochloride | 2.25 g | Cl.Cl.NCC1(CCN(CC1)CCCCCC(C1=CC=CC=C1)=O)OC
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 1.16 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | 1-hydroxybenzotriazole | 0.815 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 1.16 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | triethylamine | 2.4 ml | C(C)N(CC)CC | C6H15N
product | 4-amino-5-chloro-2-methoxy-N-((4-methoxy-1-(6-oxo-6-phenylhexyl)piperidin-4-yl)methyl)benzamide | 1.43 g | NC1=CC(=C(C(=O)NCC2(CCN(CC2)CCCCCC(C2=CC=CC=C2)=O)OC)C=C1Cl)OC | C27H36ClN3O4
